US05045552
4-(4-Methoxybutoxy)-2-methylpyridine 1-oxide
6.77 g (0.065 mol) of 4-methoxybutanol was dissolved in 60 ml of dimethyl sulfoxide to obtain a solution. 2.6 g (0.065 mol) of 60% sodium hydride was added to this solution at a room temperature in a nitrogen atmosphere. The obtained mixture was heated to 60° C., stirred for one hour and cooled to a room temperature. A solution of 4.66 g (0.032 mol) of 4-chloro-2-methylpyridine 1-oxide in 20 ml of dimethyl sulfoxide was dropwise added to the resulting mixture. The obtained mixture was stirred at 40° C. for one hour. After the completion of the reaction, 5 ml of water was added to the mixture and the obtained mixture was evaporated to dryness to remove the solvent. 150 ml of water was added to the residue. The obtained mixture was extracted with 200 ml of chloroform four times. The extract was dried over magnesium sulfate and filtered. The filtrate was distilled to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/methanol) to obtain 5.06 g of the title compound as an oil.

reactant | 4-methoxybutanol | 0.065 mol, 6.77 g | COCCCCO | C5H12O2
reactant | sodium hydride | 0.065 mol, 2.6 g | [H-].[Na+]
reactant | 4-chloro-2-methylpyridine 1-oxide | 0.032 mol, 4.66 g | ClC1=CC(=[N+](C=C1)[O-])C | C6H6ClNO
reactant | water | 5 ml | O | H2O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-(4-Methoxybutoxy)-2-methylpyridine 1-oxide | 5.06 g | COCCCCOC1=CC(=[N+](C=C1)[O-])C | C11H17NO3
